US07244735B2
1-(2,5-dichloropyrimidin-4-yl)-azetidine-3-carboxylic acid [1-(3-chlorophenyl)-2-hydroxyethyl]-amide:
1-(2,5-Dichloropyrimidin-4-yl)-azetidine-3-carboxylic acid (66 mg, 0.27 mmol, 1 equivalent) was dissolved in DMF (1 mL) together with EDCI (103 mg, 0.53 mmol, 2 equivalents), HOBt (18 mg, 0.13 mmol, 0.5 equivalent) and (S)-(+)-3-chlorophenylglycinol (67.4 mg, 0.32 mmol, 1.2 equivalents). Triethylamine (121 mg, 0.32 mmol, 1.2 equivalents) was then added and the resulting mixture was stirred at room temperature for 1 hour then warmed to 90° C. for 10 minutes. The crude reaction mixture was diluted with ethyl acetate, washed with water, and the organic fraction dried over sodium sulfate. The resulting crude oil was purified by HPLC Gilson (acetonitrile/water/0.1% TFA), yielding the title compound as a white solid (44 mg, 41%). HPLC Rt=5.528 minutes.

reactant | 1-(2,5-Dichloropyrimidin-4-yl)-azetidine-3-carboxylic acid | 0.27 mmol, 66 mg, 1 equivalent | ClC1=NC=C(C(=N1)N1CC(C1)C(=O)O)Cl | C8H7Cl2N3O2
reactant | EDCI | 0.53 mmol, 103 mg, 2 equivalents | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.13 mmol, 18 mg, 0.5 equivalent | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-(+)-3-chlorophenylglycinol | 0.32 mmol, 67.4 mg, 1.2 equivalents | C1=CC(=CC(=C1)Cl)[C@@H](CO)N | C8H10ClNO
reactant | Triethylamine | 0.32 mmol, 121 mg, 1.2 equivalents | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,5-dichloropyrimidin-4-yl)-azetidine-3-carboxylic acid [1-(3-chlorophenyl)-2-hydroxyethyl]-amide | 44 mg, 41% | ClC=1C=C(C=CC1)C(CO)NC(=O)C1CN(C1)C1=NC(=NC=C1Cl)Cl | C16H15Cl3N4O2
